US04486425
Following the method of Preparation 3, 225 mg of 2-(2-chloroacetamidothiazol-4-yl)-2-ethoxyiminoacetic acid and 200 mg of benzhydryl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate were reacted to give 280 mg of benzhydryl 7-[2-(2-chloroacetamidothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate, in the form of a yellow powder.

reactant | 2-(2-chloroacetamidothiazol-4-yl)-2-ethoxyiminoacetic acid | 225 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC | C9H10ClN3O4S
reactant | benzhydryl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate | 200 mg | NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H22N2O4S
product | benzhydryl 7-[2-(2-chloroacetamidothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | 280 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC | C31H30ClN5O7S2
